US05686445
4-[(6,11-Dihydro-5H-dibenz[b,e]azepin-5-yl)carbonyl]-N-(2-methylphenyl)benzamide
To a mixture of 0.362 g of 4-[(6,11-dihydro-5H-dibenz[b,e]azepin-5-yl)carbonyl]benzoyl chloride and 0.101 g of triethylamine in 5 ml of dichloromethane is added a solution of 0.129 g of 2-methylaniline in 3 ml of dichloromethane. The mixture is stirred 1.5 hr at room temperature and then washed with H2O 1N HCl, 1M NaHCO3, brine and dried (Na2SO4). The solvent is removed to give a solid. The solid is dissolved in dichloromethane and filtered through a thin pad of hydrous magnesium silicate with dichloromethane as eluent to give 0.025 g of crystals, m.p. 214°-216° C.

reactant | 4-[(6,11-dihydro-5H-dibenz[b,e]azepin-5-yl)carbonyl]benzoyl chloride | 0.362 g | C1=CC=CC=2N(CC3=C(CC21)C=CC=C3)C(=O)C3=CC=C(C(=O)Cl)C=C3 | C22H16ClNO2
reactant | triethylamine | 0.101 g | C(C)N(CC)CC | C6H15N
reactant | 2-methylaniline | 0.129 g | CC1=C(N)C=CC=C1 | C7H9N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 4-[(6,11-Dihydro-5H-dibenz[b,e]azepin-5-yl)carbonyl]-N-(2-methylphenyl)benzamide | 0.025 g | C1=CC=CC=2N(CC3=C(CC21)C=CC=C3)C(=O)C3=CC=C(C(=O)NC2=C(C=CC=C2)C)C=C3 | C29H24N2O2
